US09403798B2
4-{4-[2-(Adamantan-1-yl)-2-oxoethyl]piperazin-1-yl}-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To an acetonitrile solution (4.0 mL) of 6-methyl-4-(piperazin-1-yl)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (28.7 mg, 80.0 μmol) synthesized in Reference Synthesis Example 351, 1-(adamantan-1-yl)-2-bromoethanone (23.1 mg, 90.0 μmol), potassium carbonate (13.8 mg, 100 μmol), and sodium iodide (15.0 mg, 100 μmol) were added and the resultant mixture was stirred at room temperature for 1 day. After the completion of the reaction, to the reaction solution, saturated sodium bicarbonate aqueous solution was added and extraction with ethyl acetate from the reaction solution was performed. The organic layer was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (chloroform/methanol=10/0→9/1) to obtain the title compound (20.8 mg, yield: 49%).

reactant | 6-methyl-4-(piperazin-1-yl)-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 80.0 μmol, 28.7 mg | CC1=NC(=NC(N1CC=1SC(=CC1)C(F)(F)F)=O)N1CCNCC1 | C14H16F3N5OS
reactant | 1-(adamantan-1-yl)-2-bromoethanone | 90.0 μmol, 23.1 mg | C12(CC3CC(CC(C1)C3)C2)C(CBr)=O | C12H17BrO
reactant | potassium carbonate | 100 μmol, 13.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 100 μmol, 15.0 mg | [I-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | 4-{4-[2-(Adamantan-1-yl)-2-oxoethyl]piperazin-1-yl}-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 20.8 mg, yield: 49% | C12(CC3CC(CC(C1)C3)C2)C(CN2CCN(CC2)C2=NC(N(C(=N2)C)CC=2SC(=CC2)C(F)(F)F)=O)=O | C26H32F3N5O2S
